US06967204B2
3-Hydroxy-phenyl-acetic acid (15.3 g, 101 mmol), benzyl bromide (36.2 g, 202 mmol) and potassium carbonate (29.2 g, 202 mmol) were suspended in dimethylformamide (300 ml) and the reaction was heated to reflux under nitrogen for 44 hours. The reaction mixture was cooled, filtered and the filtrate was concentrated under reduced pressure. The residue was partitioned between ethyl acetate (200 ml) and water (200 ml), and the aqueous phase was extracted with ethyl acetate. (2×200 ml). The combined organic extracts were washed with brine (200 ml), dried over Na2SO4 and the solvent was removed under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with pentane: ethyl acetate (95:5, by volume) to give (3-benzyloxy-phenyl)-acetic acid benzyl ester (10.7 g) as a white solid.

reactant | 3-Hydroxy-phenyl-acetic acid | 101 mmol, 15.3 g | OC=1C=C(C=CC1)CC(=O)O | C8H8O3
reactant | benzyl bromide | 202 mmol, 36.2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 202 mmol, 29.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | (3-benzyloxy-phenyl)-acetic acid benzyl ester | 10.7 g | C(C1=CC=CC=C1)OC(CC1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C22H20O3
